* Extracted by KLayout with SG13G2 LVS runset on : 20/08/2026 14:23

.SUBCKT vga_dut
M$1 \$1 \$12 \$8 \$8 sg13_lv_nmos L=1u W=246.75u AS=83.895p AD=83.895p
+ PS=510.5u PD=510.5u rfmode=0
M$26 \$1 \$1 \$8 \$8 sg13_lv_nmos L=1u W=246.75u AS=83.895p AD=83.895p
+ PS=510.5u PD=510.5u rfmode=0
M$51 \$1 \$1 \$I659 \$8 sg13_lv_nmos L=0.5u W=200u AS=68p AD=68p PS=413.6u
+ PD=413.6u rfmode=0
M$71 \$16 \$4 \$8 \$8 sg13_lv_nmos L=0.5u W=200u AS=68p AD=68p PS=413.6u
+ PD=413.6u rfmode=0
M$91 \$16 \$7 \$I660 \$8 sg13_lv_nmos L=0.5u W=200u AS=68p AD=68p PS=413.6u
+ PD=413.6u rfmode=0
M$111 \$16 \$1 \$8 \$8 sg13_lv_nmos L=1u W=246.75u AS=83.895p AD=83.895p
+ PS=510.5u PD=510.5u rfmode=0
M$136 \$1 \$4 \$8 \$8 sg13_lv_nmos L=0.5u W=200u AS=68p AD=68p PS=413.6u
+ PD=413.6u rfmode=0
.ENDS vga_dut
